US06353025B1
To a stirred solution of 4′-(2-bromoacetyl)-2′,5′-dimethylacetanilide (4.57 g) in ethanol (80 ml) was added sodium borohydride (608 mg) under ice-cooling, and the mixture was stirred for 1 hour. Acetic acid (3.7 ml) and water (200 ml) were added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. The residue was dissolved in tetrahydrofuran (80 ml), and 5N aqueous sodium hydroxide solution (6.4 ml) was added to the solution under ice-cooling with stirring. The mixture was stirred for 30 minutes at room temperature, water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. To the residue was added diethyl ether, and collection of the insoluble material by filtration gave 2′,5′-dimethyl-4′-oxiranylacetanilide (1.72 g).

reactant | 4′-(2-bromoacetyl)-2′,5′-dimethylacetanilide | 4.57 g | BrCC(=O)C1=CC(=C(NC(C)=O)C=C1C)C | C12H14BrNO2
reactant | sodium borohydride | 608 mg | [BH4-].[Na+]
reactant | Acetic acid | 3.7 ml | C(C)(=O)O | C2H4O2
reactant | water | 200 ml | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2′,5′-dimethyl-4′-oxiranylacetanilide | 1.72 g | CC1=C(NC(C)=O)C=C(C(=C1)C1OC1)C | C12H15NO2
